US07569727B2
1.5 g of 5% palladium on active carbon are added to 15.15 g of 3-(4-methoxyphenyl)-2-cyclohexen-1-one in 400 ml of methanol and stirring is carried out in a hydrogen atmosphere for 4 hours. The catalyst is filtered off and the reaction mixture is concentrated. The mixture so obtained is dissolved in 200 ml of dichloromethane and stirred with 26.9 g of pyridinium dichromate and 2.1 g of pyridinium trifluoroacetate at room temperature for 6 hours. The reaction mixture is decanted, concentrated and purified over silica gel. 3-(4-Methoxyphenyl)cyclohexanone is obtained in the form of a colourless oil.

reactant | 3-(4-methoxyphenyl)-2-cyclohexen-1-one | 15.15 g | COC1=CC=C(C=C1)C1=CC(CCC1)=O | C13H14O2
reactant | hydrogen | [H][H] | H2
reactant | pyridinium dichromate | 26.9 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | pyridinium trifluoroacetate | 2.1 g | FC(C(=O)[O-])(F)F.[NH+]1=CC=CC=C1
solvent | methanol | 400 ml | CO | CH4O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | palladium | 1.5 g | [Pd] | Pd
product | 3-(4-Methoxyphenyl)cyclohexanone | COC1=CC=C(C=C1)C1CC(CCC1)=O | C13H16O2
